US04579947
1-[3-(4-Benzylpiperazin-1-yl)propyl]-3-phenylurea
A solution of 1-(3-aminopropyl)-4-benzylpiperazine (3.0 g; 12.9 mmole) and phenyl isocyanate (1.54 g; 12.9 mmole) in methylene chloride (20 ml) was stirred at room temperature overnight. The reaction mixture was concentrated under reduced pressure, and the residue was crystallized from aqueous acetone to provide the title compound as colorless crystals (2.77 g; 61% yield), m.p. 45°-47° C.

reactant | 1-(3-aminopropyl)-4-benzylpiperazine | 12.9 mmole, 3.0 g | NCCCN1CCN(CC1)CC1=CC=CC=C1 | C14H23N3
reactant | phenyl isocyanate | 12.9 mmole, 1.54 g | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 1-[3-(4-Benzylpiperazin-1-yl)propyl]-3-phenylurea | 2.77 g, 61% yield | C(C1=CC=CC=C1)N1CCN(CC1)CCCNC(=O)NC1=CC=CC=C1 | C21H28N4O
